US06498161B1
Step D: 2-(R)-(3-(S)-((4-(Benzyloxymethyl)piperidin-1-yl)methyl)-4-(S)-phenylpyrrolidin-1-yl)-cyclohexaneacetic Acid
A solution of α-(R)-(3-(S)-((4-(benzyloxymethyl)piperidin-1-yl)methyl)-4-(S)-phenylpyrrolidin-1-yl)-cyclohexaneacetic acid para-methoxybenzyl ester (30 mg, 0.048 mmol) in 96% formic acid (2.0 mL) was stirred at RT. After 2 h, the formic acid was evaporated at reduced pressure. Toluene was added and evaporated, and this was repeated with a second portion of toluene. The crude product was purified by flash column chromatography on silica gel packed in CH2Cl2. Elution with 5% CH3OH/1% conc. aq. NH4OH/CH2Cl2 followed by 10% CH3OH/2% conc. aq. NH4OH/CH2Cl2 gave 19 mg of the title compound as a colorless brittle glass. 1H NMR (400 MHz, CD3OD): δ 7.39-7.22 (m, 10H), 4.45 (s, 2H), 3.59 (dd, J=11, 8 Hz, 2H), 3.48 (d, J=4 Hz, 1H), 3.46-3.35 (m, 1H), 3.28 (d, J=6 Hz, 2H), 3.12 (td, J=10, 8 Hz, 1H), 2.93 (bd, J=11 Hz, 1H), 2.81-2.71 (m, 2H), 2.49 (dd, J=12, 10 Hz, 1H), 2.33 (dd, J=12, 3 Hz, 1H), 2.03 (bt, J=11 Hz, 1H), 1.92-1.12 (m, 18H); ESI−MS 505 (M+H).

reactant | α-(R)-(3-(S)-((4-(benzyloxymethyl)piperidin-1-yl)methyl)-4-(S)-phenylpyrrolidin-1-yl)-cyclohexaneacetic acid para-methoxybenzyl ester | 0.048 mmol, 30 mg | COC1=CC=C(COC([C@@H](C2CCCCC2)N2C[C@@H]([C@H](C2)C2=CC=CC=C2)CN2CCC(CC2)COCC2=CC=CC=C2)=O)C=C1 | C40H52N2O4
reactant | formic acid | 2.0 mL | C(=O)O | CH2O2
product | 2-(R)-(3-(S)-((4-(Benzyloxymethyl)piperidin-1-yl)methyl)-4-(S)-phenylpyrrolidin-1-yl)-cyclohexaneacetic Acid | 19 mg | C(C1=CC=CC=C1)OCC1CCN(CC1)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)[C@H]1C(CCCC1)CC(=O)O | C32H44N2O3
